US07947692B2
To a magnetically stirred mixture of 4-Hydroxy-4-[3-(trifluoromethyl)phenyl]piperidine-1-carbonyl chloride (465 mg, 1.51 mmol) in acetone (15 mL) was added ammonium thiocyanate (105 mg, 1.39 mmole). The reaction is stirred at reflux for 30 min. 3-Amino-2-chloro-4 methoxypyridine (200 mg, 1.26 mmole) was added and the reaction was allowed to continue to stir at reflux overnight. TLC (50% ethyl acetate/hexane) indicated complete consumption of starting material. The reaction was poured into water and the aqueous layer was extracted with ethyl acetate. The resulting organic layers were washed with 2N HCl (2×) and saturated sodium chloride solution and then dried over magnesium sulfate. Purification by flash chromatography gave 1-(2-Chloro-4-methoxy-pyridin-3-yl)-3-[4-hydroxy-4-(3-trifluoromethylphenyl)-piperidine-1-carbonyl]-thiourea (100 mg, 0.20 mmole, 16% yield) as a light yellow solid. (LRMS for C20H20ClF3N4O3S (M+H)+ at m/z=488. The NMR spectrum obtained on the sample is compatible with its structure.

reactant | 4-Hydroxy-4-[3-(trifluoromethyl)phenyl]piperidine-1-carbonyl chloride | 1.51 mmol, 465 mg | OC1(CCN(CC1)C(=O)Cl)C1=CC(=CC=C1)C(F)(F)F | C13H13ClF3NO2
reactant | ammonium thiocyanate | 1.39 mmole, 105 mg | [S-]C#N.[NH4+]
reactant | 3-Amino-2-chloro-4 methoxypyridine | 1.26 mmole, 200 mg | NC=1C(=NC=CC1OC)Cl | C6H7ClN2O
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | 1-(2-Chloro-4-methoxy-pyridin-3-yl)-3-[4-hydroxy-4-(3-trifluoromethylphenyl)-piperidine-1-carbonyl]-thiourea | 0.20 mmole, 100 mg, 16% yield | ClC1=NC=CC(=C1NC(=S)NC(=O)N1CCC(CC1)(C1=CC(=CC=C1)C(F)(F)F)O)OC | C20H20ClF3N4O3S
